US06699910B2
8-Hydroxy-2-(6-hydroxy-5,5-dimethyl-hexyl)-7,7-dimethyl-octanoic acid (1.0g, 3.16 mmol) was dissolved in THF (40 mL) and cooled in an ice-water bath. Methyl lithium (27 mL) was then added at once. The reaction was continued for 2 h at 0° C. The reaction mixture was poured into dilute hydrochloric acid (5 mL concentrated hydrochloric acid in 60 mL water). The organic layer was separated and the aqueous layer was extracted with diethyl ether (2×50 mL). The combined organic layers were dried over sodium sulfate and concentrated in vacuo to give the crude product (1.0 g). The crude product was purified by column chromatography (hexanes : ethyl acetate=4:1, then 1:1) to give 9-hydroxy-3-(6-hydroxy-5,5-dimethyl-hexyl)-8,8-dimethyl-nonan-2-one (0.41 g, yield 41%) and 7-(1-hydroxy-1-methylethyl)-2,2,12,12-tetramethyltridecan-1,13-diol (0.4 g, 38%, not shown) as a by-product. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm) 3.46 (s, 4H), 2.65-2.50 (m, 1H), 2.28 (s, 3H), 2.60 (br., 2H), 1.82-1.50 (m, 4H), 1.50-1.25 (m, 12H), 1.02 (s, 12H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm) 213.4, 71.7, 53.2, 38.3, 31.6, 28.7, 28.3, 23.8. HRMS (LSIMS, nba): Calcd. for C19H39O3 (MH+): 315.2899, found: 315.2866.

reactant | 8-Hydroxy-2-(6-hydroxy-5,5-dimethyl-hexyl)-7,7-dimethyl-octanoic acid | 3.16 mmol, 1.0g | OCC(CCCCC(C(=O)O)CCCCC(CO)(C)C)(C)C | C18H36O4
reactant | Methyl lithium | 27 mL | C[Li]
reactant | hydrochloric acid | 5 mL | Cl | ClH
reactant | 7-(1-hydroxy-1-methylethyl)-2,2,12,12-tetramethyltridecan-1,13-diol | OC(C)(C)C(CCCCC(CO)(C)C)CCCCC(CO)(C)C | C20H42O3
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-hydroxy-3-(6-hydroxy-5,5-dimethyl-hexyl)-8,8-dimethyl-nonan-2-one | 0.41 g, yield 41% | OCC(CCCCC(C(C)=O)CCCCC(CO)(C)C)(C)C | C19H38O3
